US08012956B2
methyl 4-(bromomethyl)-3-(methyloxy)benzoate (300 mg, 1.15 mmol) was suspended in water (3 ml) and concentrated aqueous hydrochloric acid (380 μl) was added. The reaction mixture was refluxed for 16 h, then cooled to room temperature and partitioned with ethyl acetate (10 ml). The organic phase was separated, washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography on silica gel (dichloromethane:methanol 95:5) to provide 4-(hydroxymethyl)-3-(methyloxy)benzoic acid (74 mg, 35% yield). MS (EI) for C9H10O4: 181(M−H).

reactant | methyl 4-(bromomethyl)-3-(methyloxy)benzoate | 1.15 mmol, 300 mg | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | hydrochloric acid | 380 μl | Cl | ClH
reactant | water | 3 ml | O | H2O
product | 4-(hydroxymethyl)-3-(methyloxy)benzoic acid | 74 mg, 35% yield | OCC1=C(C=C(C(=O)O)C=C1)OC | C9H10O4
